US04110457
The mixture of 3,4 g of 1-(4-hydroxyphenyl)-2-(2,2,-diphenylethylamino)-propane, 1.0 g of sodium hydroxide in 5 ml of water, and 50 ml of dimethylsulphoxide is warmed to 60°, and 1.7 g of 2-pyridylmethyl chloride hydrochloride are added. The mixture is stirred overnight at ambient temperature, then diluted with water and extracted with ethyl acetate. The extract is washed with brine, dried, evaporated and the residue dissolved in 30 ml of warm methanol. The solution is treated with 1.1 g of maleic acid, cooled and then treated with 30 ml of diethyl ether. The precipitate formed is washed with ethyl acetate and dried, to afford the dl-1-[4-(2-pyridylmethoxy)-phenyl]-2-(2,2-diphenylethylamino)-propane maleate, melting at 167°-169°.

reactant | 1-(4-hydroxyphenyl)-2-(2,2,-diphenylethylamino)-propane | 3,4 g | OC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25NO
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
reactant | 2-pyridylmethyl chloride hydrochloride | 1.7 g | Cl.N1=C(C=CC=C1)CCl
reactant | water | 5 ml | O | H2O
product | 1-[4-(2-pyridylmethoxy)-phenyl]-2-(2,2-diphenylethylamino)-propane maleate | C(\C=C/C(=O)O)(=O)O.N1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H30N2O.C4H4O4/c1-23(20-24-15-17-28(18-16-24)32-22-27-14-8-9-19-30-27)31-21-29(25-10-4-2-5-11-25)26-12-6-3-7-13-26;5-3(6)1-2-4(7)8/h2-19,23,29,31H,20-22H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
